US05484689
Phenylglyoxal monohydrate (304 mg, 2 mM) and n-hexylbenzene (0.76 ml, 4 mM) were dissolved in dichloroethane (3 ml), titanium tetrachloride (0.33 ml, 3 mM) was added, and reacted at room temperature for 1 hour. Using the same procedure as in Example 1, 4'-n-hexylbenzoin was obtained as crystal (352.8 mg, 59.4% yield).

reactant | Phenylglyoxal monohydrate | 2 mM, 304 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | n-hexylbenzene | 4 mM, 0.76 ml | C(CCCCC)C1=CC=CC=C1 | C12H18
solvent | dichloroethane | 3 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 3 mM, 0.33 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4'-n-hexylbenzoin | C(CCCCC)C1=CC=C(C(C(C2=CC=CC=C2)=O)O)C=C1 | C20H24O2
